US07601498B2
Preparation of N-(5-carboxypentyl)-4-(4-(dimethylamino)styryl)pyridinium bromide
A mixture of 4-N,N-dimethylaminobenzaldehyde (3 g, 20 mmoles), N-(5-carboxypentyl)picolinium bromide (5.6 g, 20 mmoles) and piperidine (2 mL) in ethanol (100 mL) was heated at 60° C. overnight. The mixture was evaporated to dryness in vacuo. The residue was redissolved in methanol and then precipitated with ether to give the title product (6.7 g).

reactant | 4-N,N-dimethylaminobenzaldehyde | 20 mmoles, 3 g | CN(C)C1=CC=C(C=C1)C=O | C9H11NO
reactant | N-(5-carboxypentyl)picolinium bromide | 20 mmoles, 5.6 g | [Br-].C(=O)(O)CCCCC[N+]1=C(C=CC=C1)C
reactant | piperidine | 2 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N-(5-carboxypentyl)-4-(4-(dimethylamino)styryl)pyridinium bromide | 6.7 g | [Br-].C(=O)(O)CCCCC[N+]1=CC=C(C=C1)C=CC1=CC=C(C=C1)N(C)C | InChI=1S/C21H26N2O2.BrH/c1-22(2)20-11-9-18(10-12-20)7-8-19-13-16-23(17-14-19)15-5-3-4-6-21(24)25;/h7-14,16-17H,3-6,15H2,1-2H3;1H
